US03962249
trans-1-(3-Phenylpropyl)-2,5-dimethyl-4-(2-furoyl)-piperazine hydrochloride
2-Furoyl chloride (13 g) was added dropwise to a solution of trans-1-(3-phenylpropyl)-2,5-dimethylpiperazine [b.p. 138 - 140 (4 mmHg), dipicrate, m.p. 258° - 261°C] (21 g) and benzene (200 ml).

reactant | 2-Furoyl chloride | 13 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | trans-1-(3-phenylpropyl)-2,5-dimethylpiperazine | 21 g | C1(=CC=CC=C1)CCCN1[C@H](CN[C@@H](C1)C)C | C15H24N2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | trans-1-(3-Phenylpropyl)-2,5-dimethyl-4-(2-furoyl)-piperazine hydrochloride | Cl.C1(=CC=CC=C1)CCCN1[C@H](CN([C@@H](C1)C)C(=O)C=1OC=CC1)C | InChI=1S/C20H26N2O2.ClH/c1-16-15-22(20(23)19-11-7-13-24-19)17(2)14-21(16)12-6-10-18-8-4-3-5-9-18;/h3-5,7-9,11,13,16-17H,6,10,12,14-15H2,1-2H3;1H/t16-,17+;/m0./s1
